US06734179B2
To a solution of 0.30 g (0.58 mMol) 4-[2-(4-chloromethyl-benzoylamino)-4-methoxy-benzothiazol-7-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester in 10 ml THF were added 0.16 g (1.75 mMol) N-(2-methoxyethyl)-methyl amine. The reaction mixture was heated to 70° C. for 5 h. The solvent was evaporated to dryness, the residue taken up in ethyl acetate and washed with water and brine. The organic phase was dried over sodium sulfate and evaporated to dryness in vacuo. The residue was subjected to column chromatography (dichloro methane/methanol 19:1) to yield 0.27 g (82%) of 4-[4-methoxy-2-(4-{[(2-methoxy-ethyl)-methyl-amino]-methyl}-benzoylamino)-benzothiazol-7-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester as a white foam. ES-MS m/e (%): 567 ([M+H]+, 100).

reactant | 4-[2-(4-chloromethyl-benzoylamino)-4-methoxy-benzothiazol-7-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.58 mMol, 0.30 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC=C(C=2N=C(SC21)NC(C2=CC=C(C=C2)CCl)=O)OC | C26H28ClN3O4S
reactant | N-(2-methoxyethyl)-methyl amine | 1.75 mMol, 0.16 g | COCCNC | C4H11NO
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4-[4-methoxy-2-(4-{[(2-methoxy-ethyl)-methyl-amino]-methyl}-benzoylamino)-benzothiazol-7-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.27 g, 82% | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC=C(C=2N=C(SC21)NC(C2=CC=C(C=C2)CN(C)CCOC)=O)OC | C30H38N4O5S
